US08236950B2
To a solution of DMF (50 mL) was added 1-bromo-2-nitro-4-chloro-benzene (5.0 g, 21.1 mmol), phenol (1.9 g, 21.1 mmol), and Na2CO3 (2.3 g, 21.1 mmol). The solution was heated to 85° C. and stirred overnight. The reaction was poured into water and extracted with EtOAc. Washed with water and dried over Na2SO4, filtered and concentrated under vacuum giving a yellow oil that was purified by silica gel column chromatography eluting with Hexanes:Ethyl Acetate (90:10) to give 4-chloro-2-nitro-1-phenoxy-benzene (3.8 g, 74%). 4-Chloro-2-nitro-1-phenoxy-benzene (13 g, 52.1 mmol) was reacted with SnCl2 (49.3 g, 260 mmol) following the procedure from Example 7f giving 5-chloro-2-phenoxy-phenylamine as a white solid 9.0 g, 79%).

reactant | 4-Chloro-2-nitro-1-phenoxy-benzene | 52.1 mmol, 13 g | ClC1=CC(=C(C=C1)OC1=CC=CC=C1)[N+](=O)[O-] | C12H8ClNO3
reactant | SnCl2 | 260 mmol, 49.3 g | Cl[Sn]Cl
product | 5-chloro-2-phenoxy-phenylamine | 9.0 g, 79% | ClC=1C=CC(=C(C1)N)OC1=CC=CC=C1 | C12H10ClNO
